US04970327
1α-Methyl-2-bromo-6-methylenandrost-4-ene-3,17-dione [VI, R1 =CH3, R2 =R3 =R4 =H]
With a procedure similar to the one described in the Example 3, 2.5 g of 1α-methyl-2,6-dibromo-6-bromomethylandrost-4-ene-3,17-dione and 5.5 g of sodium iodide in acetone give 1.6 g of the crude title compound which is directly used for the next step.

reactant | 1α-methyl-2,6-dibromo-6-bromomethylandrost-4-ene-3,17-dione | 2.5 g | C[C@H]1C(C(C=C2C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]12C)=O)(CBr)Br)=O)Br | C21H27Br3O2
reactant | sodium iodide | 5.5 g | [I-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 1α-Methyl-2-bromo-6-methylenandrost-4-ene-3,17-dione | 1.6 g | C[C@H]1C(C(C=C2C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]12C)=O)=C)=O)Br | C21H27BrO2
